US07678787B2
Step A. Sodium 4-pyridin-4-yl-benzoate
To a suspension of 4-carboxybenzeneboronic acid (0.660 g, 3.98 mmol) and 4-bromopyridine hydrochloride (0.770 g, 3.98 mmol) in dry acetonitrile (20 mL) was added 0.4 M aqueous sodium carbonate (20 mL) and the mixture was purged with nitrogen for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.240 g) was then added and the reaction mixture heated to 90° C. for 22 hours. The precipitated sodium salt was filtered, washed with acetonitrile and then dried in vacuo at 50° C. overnight to give the title compound (0.162 g, 18%) as a grey solid.

reactant | 4-carboxybenzeneboronic acid | 3.98 mmol, 0.660 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 4-bromopyridine hydrochloride | 3.98 mmol, 0.770 g | Cl.BrC1=CC=NC=C1
reactant | sodium carbonate | 0.4 M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Sodium 4-pyridin-4-yl-benzoate | 0.162 g, 18% | N1=CC=C(C=C1)C1=CC=C(C(=O)[O-])C=C1.[Na+] | InChI=1S/C12H9NO2.Na/c14-12(15)11-3-1-9(2-4-11)10-5-7-13-8-6-10;/h1-8H,(H,14,15);/q;+1/p-1
